US07462600B2
Preparation 15: 1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde
A mixture of 2-bromopyridine (3.4 mmol), 3-pyrazolecarboxaldehyde (3.2 mmol), and potassium carbonate (3.4 mmol) in anhydrous DMF (6 mL) was heated to 120° C. for 24 h. The reaction was cooled to RT, diluted with water, and extracted with EtOAc (3 x). The organic layers were combined and dried (Na2SO4), filtered, and concentrated. The title compound was obtained upon purification (SGC using EtOAc:hexanes gradient eluant from 0% to 100% EtOAc).

reactant | 2-bromopyridine | 3.4 mmol | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3-pyrazolecarboxaldehyde | 3.2 mmol | N1N=C(C=C1)C=O | C4H4N2O
reactant | potassium carbonate | 3.4 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde | N1=C(C=CC=C1)N1N=CC(=C1)C=O | C9H7N3O
